US04737458
Preparation of 4-amino-1,2,3-trimethylpyrazolin-5-one (TAP).
A solution of 2.8 g. 4-nitro-1,2,3-trimethylpyrazolin-5-one in 8.4 ml. concentrated hydrochloric acid and 3 ml. water is added dropwise, with cooling, to a suspension of 6.4 g. zinc dust in 5 ml. water, the reaction temperature thereby being kept between 25° and 30° C. The reaction mixture is then further stirred for 2 hours at 60° C., whereafter the reaction mixture is poured on to ice and rendered alkaline with 5N aqueous sodium hydroxide solution. The precipitated zinc salts are filtered off with suction, the mother liquor is substantially evaporated and the residue is shaken out several times with chloroform. After drying the organic phase over anhydrous sodium sulphate, it is evaporated in a vacuum, the desired product thereby crystallising. Yield: 0.93 g. (40% of theory).

reactant | 4-nitro-1,2,3-trimethylpyrazolin-5-one | [N+](=O)([O-])C1=C(N(N(C1=O)C)C)C | C6H9N3O3
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | 5N | [OH-].[Na+]
catalyst | zinc | [Zn] | Zn
solvent | water | O | H2O
product | 4-amino-1,2,3-trimethylpyrazolin-5-one | NC1=C(N(N(C1=O)C)C)C | C6H11N3O
